US06004478
Preparation of trans-4-(trans-4-(2-(4-(2,2,3,3-tetrafluoro-n-butoxy)phenyl)ethyl)cyclohexyl)-1-(5-methoxy-n-pentyl)-1-silacyclohexane
The general procedure of Example 38 was repeated using 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide, 4-(4-(5-methoxy-n-pentyl)-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde and 1-bromo-2,2,3,3-tetrafluoro-n-butane, thereby obtaining the intended compound.

reactant | 4-(t-butyldimethylsiloxy)benzyltriphenylphosphonium bromide | [Br-].O([Si](C)(C)C(C)(C)C)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 4-(4-(5-methoxy-n-pentyl)-4-phenyl-4-silacyclohexyl)cyclohexane carbaldehyde | COCCCCC[Si]1(CCC(CC1)C1CCC(CC1)C=O)C1=CC=CC=C1 | C24H38O2Si
reactant | 1-bromo-2,2,3,3-tetrafluoro-n-butane | BrCC(C(C)(F)F)(F)F | C4H5BrF4
product | trans-4-(trans-4-(2-(4-(2,2,3,3-tetrafluoro-n-butoxy)phenyl)ethyl)cyclohexyl)-1-(5-methoxy-n-pentyl)-1-silacyclohexane | FC(COC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCCCCOC)(C(C)(F)F)F | C29H46F4O2Si
